US09120791B2
Step A: Methyl 1-(4-bromobutyl)-1H-pyrrole-2-carboxylate
To a suspension of 6.7 g (241.7 mmol) of NaH (60%) in 400 mL of anhydrous THF at 0° C. there are added 20 g (161.13 mmol) of methyl 1H-pyrrole-2-carboxylate (see Tetrahedron 2008, 64, 7745). The whole is subsequently stirred at ambient temperature for one hour. Then, there are added 95 mL of 1,4-dibromobutane. After the addition, the reaction mixture is heated at reflux for 12 hours. The precipitate obtained is filtered off and then washed with THF. The filtrate is subsequently concentrated to dryness. The compound is then isolated by chromatography over silica gel (cyclohexane/ethyl acetate gradient: 0 to 20%) in the form of an oil.

reactant | NaH | 241.7 mmol, 6.7 g | [H-].[Na+]
reactant | methyl 1H-pyrrole-2-carboxylate | 161.13 mmol, 20 g | N1C(=CC=C1)C(=O)OC | C6H7NO2
reactant | 1,4-dibromobutane | 95 mL | BrCCCCBr | C4H8Br2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | Methyl 1-(4-bromobutyl)-1H-pyrrole-2-carboxylate | BrCCCCN1C(=CC=C1)C(=O)OC | C10H14BrNO2
